Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Zoloft / ___
 
Attending: ___.
 
Chief Complaint:
Weight loss, dysphagia, inability to tolerate po intake
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with recent diagnosis of pancreatitis presenting with 
inability to swallow or tolerate POs. He has had 2 months of 
worsening inability to swallow or tolerate POs. He also had mild 
periumbilical/epigatric pain but this was a secondary symptom 
compared to the difficulty swallowing. He has worsened since 
that time and now cannot even tolerate his own saliva. No 
fever/chills, N/V. Some mild abdominal pain "from dry heaving 
all the time". He feels like he cannot swallow and something is 
stuck in his throat. Notes he was discharged from ___ 
___ where he failed a barium swallow study. He has 
been taking Prilosec as there was concern for GERD with no 
improvement. Has lost 40 lbs in 2 months but was also injecting 
testosterone which he has sine stopped. EGD done @ OSH and 
unremarkable. Biopsies with no squamous cell carcinoma. Had CT 
chest and a/p @ OSH on ___. 40 lb weight loss over  two months 
but was also using anabolic steroids. No fevers. + chills. He 
reports difficulty swallowing, discomfort but not overt pain. It 
feels as though something is stuck in his throat. He feels as 
though he is gagging when he tries to swallow. 
Father with hx cannabis hyperemesis

Well appearing, holding basin with thick white spit noted. No OP 
abnormalities. Mild diffuse abdominal tenderness with no r/g. 

 

In ER: (Triage Vitals:
2|98.3 |92 |128/61 |18 |100% RA  ) Meds Given: None
Fluids given: NS 1 L x 3 
Radiology Studies: None 
consults called: PIS- for records from OSH

.
PAIN SCALE: ___ 
REVIEW OF SYSTEMS:
CONSTITUTIONAL:  As per HPI
HEENT:  [X] All normal
RESPIRATORY:  [X] All normal
CARDIAC:  [X] All normal
GI:  + constipation, no bloody stools, 
GU:  [X] All normal
SKIN:  [+] hives- ? exposure to a plant or change in soaps
MUSCULOSKELETAL:  [X] All normal
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
All other systems negative except as noted above
 
Past Medical History:
Went to detox for ETOH
Used to illicits- robitussin
He has been on psych medications since he was ___ years old. He 
carried diagnoses of: bipolar affective disorder, touretttes, 
ADHD and OCD. His mother would take him to the ED and tell him 
that the had to tell doctors that ___ was depressed and suicidal 
so the insurance would cover his visit. ? Munchausen's by proxy? 
His mother would also tell him that he would never be able to 
get married or get a job. He never finished high school and is 
now getting his GED. 
 
Social History:
___
Family History:
GM with COPD. His grand-parents were murdered. 
His mother was followed by a GI specialist. His MGF had Baretts 
and died of esophageal cancer. Mat aunt with GERD. 
 
Physical Exam:
Vitals:  98.0 PO 133 / 89 109 18 99 ra 
Wife in bed next to him
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
back:  
MSK:no c/c/e 2+pulses  
SKIN: b/l erythematous papules that blanch with palpation
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  
LAD: No cervical/supra-clavicular LAD

Vitals:
98.1 BP:142/83 HR:48 R:18 100 RA 
Sitting in chair in NAD
HEENT: MMM, No scleral icterus MMM
Neck: Supple
___: RRR S1 S2 present
Abdomen: Soft, NT, ND, no rebound or guarding
Ext: No edema
Neuro: AAOx,3 moving all extremities
Psych: Pleasant, thought process linear.
 
Pertinent Results:
___ 10:48PM URINE  HOURS-RANDOM
___ 10:48PM URINE  UHOLD-HOLD
___ 10:48PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:48PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:48PM URINE  RBC-1 WBC-<1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 10:48PM URINE  MUCOUS-RARE
___ 06:39PM   LACTATE-1.3
___ 06:25PM   GLUCOSE-91 UREA N-25* CREAT-1.4* SODIUM-139 
POTASSIUM-3.9 CHLORIDE-100 TOTAL CO2-23 ANION GAP-20
___ 06:25PM   estGFR-Using this
___ 06:25PM   ALT(SGPT)-119* AST(SGOT)-25 ALK PHOS-92 TOT 
BILI-1.0
___ 06:25PM   LIPASE-29
___ 06:25PM   ALBUMIN-4.9 CALCIUM-9.7 PHOSPHATE-2.8 
MAGNESIUM-2.2
___ 06:25PM   WBC-7.0 RBC-5.20 HGB-16.1 HCT-45.2 MCV-87 
MCH-31.0 MCHC-35.6 RDW-12.5 RDWSD-39.3
___ 06:25PM   NEUTS-71.2* ___ MONOS-8.5 EOS-0.1* 
BASOS-0.4 IM ___ AbsNeut-4.96 AbsLymp-1.37 AbsMono-0.59 
AbsEos-0.01* AbsBaso-0.03
___ 06:25PM   PLT COUNT-230
___ 06:25PM   ___ PTT-30.3 ___

Pertinent labs:
___ 07:05AM BLOOD WBC-3.4* RBC-4.22* Hgb-13.1* Hct-37.1* 
MCV-88 MCH-31.0 MCHC-35.3 RDW-12.5 RDWSD-39.8 Plt ___
___ 07:05AM BLOOD Glucose-63* UreaN-16 Creat-1.1 Na-140 
K-4.4 Cl-106 HCO3-24 AnGap-14
___ 06:25AM BLOOD ALT-84* AST-17 AlkPhos-74 TotBili-0.9
___ 07:05AM BLOOD HBsAg-NEGATIVE HBsAb-Negative 
HBcAb-Negative
___ 03:30PM BLOOD HIV Ab-Negative

IMGAGING:
Barium Swallow: ___
IMPRESSION:  
  
Limited study due to small volume boluses of oral contrast, 
patient symptoms precluding ingestion of larger boluses. Within 
limitation, there is abnormal esophageal motility, with loss of 
the primary stripping wave and proximal escape of at least 50% 
of the ingested bolus within the mid esophagus, with delayed 
clearing with subsequent swallowing attempts. Otherwise, no 
overt abnormality on limited esophageal evaluation. 

Barium Swallow: ___
IMPRESSION:  
Normal double contrast upper GI series. 

 
Brief Hospital Course:
The patient is s ___ year old male with h/o depression, past 
history of polysubstance abuse who presents with persistent 
dysphagia

#Dysphagia/Globus sensation
The patient presented with sensation of inability to swallow 
which began in the weeks leading up to his admission. He also 
described weight loss which can be attributed to his decreased 
PO intake, although he also stopped using testosterone/steroids 
which likely contributed to his weight loss. He was noted to 
have slightly elevated LFTs which are likely due to his drug 
use. Hepatitis serologies and HIV test were negative. The 
patient was seen by GI who recommended repeating the barium 
swallow. Barium swallow was repeated and was abnormal as the 
patient was only able to drink a small amount of contrast. He 
was then seen by SLP who performed a bedside swallow evaluation 
and found no abnormalities- The patient was given coaching on 
swallowing and his dysphagia improved. A barium swallow was 
repeated and was normal. The patient was able to tolerate a 
regular diet prior to discharge. No cause or evidence of 
dysphagia was found therefore his presentation is likely due to 
anxiety leading to sensation of inability to swallow.

#Generalized anxiety/Possible PTSD
#Polysubstance abuse
The patient noted his symptoms started after the murder of his 
grandparents. HE was seen by psychiatry who recommended the 
patient start medication for anxiety but he preferred not to 
take medication for anxiety. He would also benefit from 
psychotherapy and substance abuse cessation. He was set up with 
an intake appointment in a partial hospital program after 
discharge.

#Acute renal failure
In setting of poor PO intake, resolved with IV fluids.

Transitional issues:
- The patient has an intake appointment for PHP after discharge 
for ongoing psychiatric care
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Famotidine 40 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Globus sensation 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,
It was a pleasure taking care of you during your admission to 
___. You were admitted with difficulty swallowing. You were 
seen by the gastroenterology team here and had a barium swallow 
(xray of your swallowing). The first test was inconclusive 
because you did not swallow enough contrast. You had a repeat 
barium swallow that was normal. You were seen by the swallowing 
team and given techniques to help your swallowing. The sensation 
of something stuck in your throat is caused by anxiety and 
stress. It is important that you follow up with your PCP and 
with ___ therapist. We have set up an appointment for you- it is 
important that you attend this appointment to get set up with 
counseling.
We wish you the best.
 
Followup Instructions:
___